Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
(Patient did not respond when asked)
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ year old male with PMHx of gynecomastia and 
resection of papillary bladder tumor in ___, and PPHx of recent 
hospitalization at ___ for 3 days in setting of psychotic 
episode, without history of self-harm, who self-presented to the 
___ ED with father reporting chest pain. On discussing with 
the ED team, father expressed concern about behavioral change in 
the past 48 hours, along with slow behavioral changes since 
___, appearing withdrawn and less engaged in 
conversations.
.
Mr. ___ reports that his lungs were hurting last night with 
deep breaths. He endorsed "a lot of stress lately". " A lot of 
people have been worried about me and I've been telling them I'm 
fine". He says that people have been worried about him because 
of skipping classes, not sleeping, not eating. I wasn't 
listening to advice from my elders. Started seeing "a lot of 
women intimately". Starting to worry about graduating, needing 
to find a job. 
.
Mood now is "pretty good". Has been having difficulty with 
staying asleep (sleeps ___ hours recently; before was ___. 
Significant difficulties with concentration, racing thoughts and 
ruminating about the future, money, people worrying about him".  
Denies panic attacks. Sometimes feels guilty about maybe 
sometimes hurting people by saying things to them. Denies 
worthlessness or hopelessness, denies SI, denies HI.
.
Patient denies auditory or visual hallucinations. He initially 
denied delusions of reference, paranoia, thought 
insertion/broadcasting/withdrawal. However, later in the 
encounter, he endorsed feeling like people are watching him, 
following him, and that he might be recorded with cameras and 
microphones both during the day and at night. He declined to 
describe these thoughts in more detail.
.
Reports episode "a few months ago" of sleeping ___ hours each 
night, reading, watching TV, playing video games, but denies 
grandiosity, risky behaviors, or pressured speech. He has been 
engaging more in sexual activity recently, as noted above. 
.
In the ED, patient was pacing the halls and was difficult to 
redirect. Patient engaged minimally in conversation and at times 
did not respond to questioning. Patient refused Zyprexa on 
multiple occasions.
.
On admission to the inpatient psychiatric unit, patient gives 
one word answers, slight nods or does not respond to questions 
at all. He denies suicidal and homicidal ideation, intent, and 
plan with head nods. He endorses feeling scared, though he does 
not elaborate on what he is scared of. He denies auditory and 
visual hallucinations. He reports feeling "weird" but is not 
able to describe why or how. 
.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
-Prior diagnoses: Brief Psychotic Episode (per PCP ___: ___ x3 days ___
-Partial hospitalizations: Denies
-Psychiatrist: Denies
-Therapist: Denies
-Medication trials: Denies
-___ trials: Denies
-Suicide attempts: Denies
-Self-injurious behavior: Denies
-Harm to others: Denies
-Trauma: Denies
-Access to weapons: Denies
.
PAST MEDICAL HISTORY:
-Diagnoses:
---Gynecomastia
---hx of bladder tumor
-PCP:  ___, MD 
-___ history of head trauma, seizure.
.
MEDICATIONS [Including vitamins, herbs, supplements, OTC]: 
Denies
.
ALLERGIES: NKDA
 
Social History:
SUBSTANCE USE HISTORY:
-Caffeine:not regularly
-Tobacco: Former smoker, can't rememebr when he quit
-Alcohol: Denies; last drank a few months ago
-Marijuana: endorses heavy use, cannot quantify, last used a few 
weeks ago
-Heroin: Denies
-Opiates: Denies
-Benzos: Denies
-Cocaine: Denies
-Amphetamines/speed: Denies
-LSD/PCP: ___: Denies
-Other Drugs: Denies
.
FORENSIC HISTORY:
-Arrests: Denies
-Convictions and jail terms: Denies
-Current status (pending charges, probation, parole): Denies
.
SOCIAL HISTORY:
___
Family History:
-Psychiatric Diagnoses: Denies
-Substance Use Disorders: Denies
-Suicide Attempts/Completed Suicides: Denies
 
Physical Exam:
Temp: 98.2 PO BP: 139/91 R Sitting HR: 110 RR: 16 O2 sat: 99% O2 
delivery: RA RASS: 0 Pain Score: ___ 
.
EXAM:
General: *Patient refused the physical exam except for 
cardiovascular exam and left extremity ROM
-HEENT: Normocephalic, atraumatic. No scleral icterus.
-Cardiovascular: Tachycardic, regular rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Extremities: +Negativism when moving left arm.  No edema of the
limbs.
-Skin: No rashes or lesions noted.
.
Neurological: Patient was not willing to participate in 
neurologic exam 
.
Catatonia Exam: patient is standing very still in awkward 
positions, walks very slow, goes in one direction, stops and 
appears stuck, significant speech latency, fixed staring, in 
attempt to move left arm, patient increases resistance with 
increased attempts to move his arm, patient places medication in
his mouth and then removes the pills multiple times before 
swallowing, when examiner places finger on nose and tells 
patient to touch his chest, he places his finger on his 
nose(echopraxia).
.
-Motor: Normal bulk and tone bilaterally. 
-Gait: Good initiation.  Narrow-based, normal stride and arm 
swing.  
.
Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: DOWB with 0 errors
-Orientation: Oriented to person, time, place
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: not tested ___ patient cooperation
-Fund of knowledge: not tested ___ patient cooperation
-Calculations: not tested ___ patient cooperation
-Abstraction: not tested ___ patient cooperation
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors, 
appropriate to conversation
.
Mental Status:
-Appearance: ___ male appearing stated age, well 
groomed, wearing hospital gown, appears internally preoccupied
-Behavior: Sitting on couch, intense, fixed gaze, psychomotor 
slowing, anxious appearing
-Attitude: suspicious, guarded, not engaged in interview, 
answers questions intermittently
-Mood: "weird"
-Affect: flat affect
-Speech: significant speech latency, at times does not respond 
to questions, one word answers or head nods, paucity of speech
-Thought process: thought blocking; poverty of thought, no 
obvious loosening of associations
-Thought Content:
---Safety: Denies SI/HI, intent, or plan
---Delusions: Endorses being scared of some people but cannot 
elaborate (+delusions of paranoia)
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, appears internally preoccupied 
-Insight: Limited
-Judgment: Poor

Discharge exam:
--Mental Status:
  -Appearance: Tall thin young man, adequately groomed, wearing
home clothing, well-grooomed
  -Behavior: sitting during interview, making good eye contact,
no psychomotor agitation or retardation
  -Attitude: Slightly guarded, though apparently improved from
earlier in hospital course
  -Mood and Affect: "okay"; reactive, smiles and laughs, though
still somewhat constricted range
  -Speech: Soft spoken, at times mumbling but still
understandable
  -Thought process: Linear, goal-directed, no LOA
  -Thought Content: Denies SI/HI, denies AVH, not responding to
internal stimuli, slightly paranoid as demonstrated by reticence
to engage in PHP and sign release of information
  -Judgment and Insight: improving though still poor
  -Cognition: awake, alert, and grossly oriented; attending to
interview appropriately with intact recollection of recent
events.
 
Pertinent Results:
___ 11:18AM   GLUCOSE-103* UREA N-11 CREAT-0.8 SODIUM-142 
POTASSIUM-4.3 CHLORIDE-104 TOTAL CO2-26 ANION GAP-12
___ 11:18AM   estGFR-Using this
___ 11:18AM   CALCIUM-10.2 PHOSPHATE-2.7 MAGNESIUM-1.8
___ 11:18AM   TSH-1.2
___ 11:18AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 11:18AM URINE  HOURS-RANDOM
___ 11:18AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 11:18AM   WBC-8.3 RBC-5.44 HGB-16.8 HCT-50.7 MCV-93 
MCH-30.9 MCHC-33.1 RDW-13.7 RDWSD-46.4*
___ 11:18AM   NEUTS-62.7 ___ MONOS-7.9 EOS-0.6* 
BASOS-0.4 IM ___ AbsNeut-5.19 AbsLymp-2.33 AbsMono-0.65 
AbsEos-0.05 AbsBaso-0.03
___ 11:18AM   PLT COUNT-160
___ 11:18AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 11:18AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 11:18AM URINE  RBC-1 WBC-2 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 11:18AM URINE  MUCOUS-RARE*

___ 06:33AM BLOOD Glucose-89 UreaN-11 Creat-0.8 Na-141 
K-4.5 Cl-103 HCO3-28 AnGap-10
___ 06:33AM BLOOD Cholest-133
___ 06:33AM BLOOD %HbA1c-5.2 eAG-103
___ 06:33AM BLOOD Triglyc-54 HDL-59 CHOL/HD-2.3 LDLcalc-63
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with medical history of 
gynecomastia and resection of papillary bladder tumor in ___ 
and psychiatric history off unspecified psychotic disorder with 
recent hospitalization at ___ for psychosis, who 
self-presented to the ___ ED with father reporting chest pain; 
father expressed concern about behavioral change in the prior 48 
hours, along with slow behavioral changes since ___, 
appearing withdrawn and less engaged in conversations. On 
admission admission interview, the patient appeared guarded, 
suspicious, and quite paranoid and was answering questions with 
short, vague, superficial, and concrete responses. There was 
also concern for catatonia (signs including staring, mutism, 
echopraxia, negativism, speech latency, and ambitendency). 
Collateral from father was significant for patient making 
paranoid statements about people intending to harm him.   His 
presentation was most consistent with a primary psychotic 
disorder. Given report of extensive marijuana use, substance 
induced pathology was also a consideration, though less likely 
given the persistence of symptoms during his hospitalization. 
.
1. LEGAL & SAFETY:
On admission, the patient refused to sign a conditional 
voluntary agreement and was admitted on a ___, which 
expired on ___. At that time the patient was deemed to be at 
continued risk of harm to self/others due to ongoing acute 
psychotic symptoms, so a Section ___ was filed with the 
district court on ___. [Court hearing was originally scheduled 
for ___. However, it was continued to ___ patient 
requested to hire his own lawyer. He was initially placed on 5 
minute checks, and was subsequently advanced to 15 minute 
checks. During admission, he began to exhibit concerning 
behavior for potential elopement; he was standing by the door to 
exit the unit with coat on, despite redirection and was 
persistently asking about discharge. Because of this, checks 
frequency was increased to 5 minutes. He subsequently maintained 
behavioral control and was again advanced to 15 minute checks. 
He was unit restricted during hospitalization. Other than 
concern for elopement, as mentioned, there were no behavioral 
issues or safety concerns during this admission. 
.
2. PSYCHIATRIC:
#)Unspecified schizophrenia spectrum disorder
On admission, patient reported he came to the hospital for 
evaluation of somatic symptoms, but did describe feeling anxious 
recently with ruminative thinking and insomnia. He later 
reported he was also having difficulty walking, talking, and was 
having "negative thoughts" leading up to presentation to the 
hospital. On initial exam, he appeared suspicious, guarded, and 
paranoid and seemed to be responding to internal stimuli. He 
additionally had a very flat affect, monotone speech, with 
somewhat disorganized thought process (responding oddly to 
questions). Patient's presentation was concerning for a 
psychotic disorder, possible with catatonic features. He 
initially had signs consistent with catatonia including staring, 
mutism, echopraxia, negativism, speech latency, and 
ambitendency) with a positive ativan trial. Ativan was started 
at 1 mg TID. This was subsequently tapered off slowly, with no 
recurrence of catatonic symptoms.
While in the ED, pt was offered Zyprexa. However, he was 
repeatedly declining it in the ED. That's why, pt was also 
started on Risperidone .5 mg QHS. He accepted medication during 
the hospital course. Risperdal dose was increased to 2 mg QHS, 
which he was discharged on. 
.
During his admission, he initially was isolative and quiet, not 
attending groups or engaging in individual therapy. He also 
showed minimal insight into his condition. He subsequently 
improved; he was observed spending time in the milieu, attending 
groups, and talking more with staff and in individual therapy, 
appearing less guarded. 

He improved significantly during hospital course, becoming less 
somatically preoccupied, exhibiting more spontaneous speech, 
organized thought process. On days leading to discharge, he was 
seen socializing in the day room, watching sports games. 
Notably, patient continued to be slightly paranoid and still 
lacking some insight regarding his initial presenting symptoms 
of psychosis. He refused to sign a release of information to 
obtain head imaging previously obtained at ___, as well 
as a release of information to coordinate care with partial 
hospitalization program after discharge. We spoke to him about 
the importance of continued follow-up with a psychiatrist or 
PHP, but both the patient and the patient's father declined. He 
did state that he was willing to continue his medications on 
discharge. He also stated he would be willing to follow-up with 
his PCP. He was counseled extensively about the importance of 
establishing psychiatric follow-up, with risks of inadequate 
follow-up leading to worsening psychosis and re-occurrence of 
symptoms; however, patient and patient's family still declined. 
They were also advised to report to the ED if he were to 
experience worsening psychosis, as well as given the contact 
information for NAMI.  

3. SUBSTANCE USE DISORDERS:
#)Cannabis use disorder
Patient was counseled about the risks of continued marijuana use 
not limited to worsening psychosis, anxiety, and 
disorganization. 

4. MEDICAL: no acute or chronic medical conditions were 
addressed during this admission
Mr. ___ shared that he had head imaging within last couple 
months. Inpt team tried to obtain details. However, pt was 
declining to sign release of medical records to obtain report 
from ___. Upon review of medical records, 
team noticed reference from PCP (note from ___ that pt had 
head CT scan and it was reportedly normal.

During the hospital stay, pt consistently denied experiencing 
any side effects from Risperdal. He denied experiencing any 
breast discharge. Pt was encouraged to continue follow up with 
his PCP and outpatient psychiatrist to monitor for side effects 
of meds or any new medical issues.

.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. Initially, 
he was quite isolative and did not attend groups or engage in 
the milieu. As his hospitalizations progress, the patient 
attended groups that focused on teaching patients various coping 
skills. He was also observed to be more social in the milieu and 
pleasant with staff members. 
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT: Several meetings 
with pt and his family (father)were held during the hospital 
admission.
Family reported that pt's condition has improved. Family was 
advocating for pt to be discharged.
Pt and his family were educated about importance of ongoing 
psychiatric follow up.
Pt was offered possibility of partial hospital program. Mr. ___ 
declined that option. He reported that he would like to return 
to his usual routine. Pt and his family indicated that they will 
arrange for an appointment with psychiatrist. Pt was declining 
to sign release of information forms to assist him with 
arranging follow up.

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of,  and possible side effects and risks of 
starting Risperidone, Lorazepam, and Benztropine, and risks and 
benefits of possible alternatives, including not taking the 
medication, with this patient. We discussed the patient's right 
to decide whether to take this medication as well as the 
importance of the patient's actively participating in the 
treatment and discussing any questions about medications with 
the treatment team, and I answered the patient's questions. The 
patient appeared able to understand and consented to begin the 
medications.
.
RISK ASSESSMENT
On initial evaluation in ED, the patient met ___ criteria 
for inability to care for self in the context of gross 
disorganization. His disorganization improved as his psychosis 
was adequately treated during inpatient psychiatric 
hospitalization from a combination of neuroleptic medication, 
individual, group, and milieu therapy. On discharge, he is no 
longer grossly disorganized and does not meet ___ 
criteria for inability to care for self. 
Pt has been consistently declining to sign forms (e.g., release 
of medical record form). His family was also in support of that.
While inpatient team is concerned that pt requests to be 
discharged prematurely and that pt has high risk to be non 
compliant with outpatient treatment, there are no legal grounds 
to hold pt longer. Pt was discharged on ___.

Our Prognosis of this patient is guarded. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Benztropine Mesylate 0.5 mg PO BID:PRN EPS symptoms  
RX *benztropine 0.5 mg 1 tablet(s) by mouth twice a day Disp 
#*28 Tablet Refills:*0 
2.  RisperiDONE (Disintegrating Tablet) 2 mg PO QHS 
RX *risperidone 2 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Schizophrenia spectrum disorder 

 
Discharge Condition:
Clear and coherent
Alert and interactive
Ambulatory - independent

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___